US07612212B2
A suspension of [(1S,2S)-1-(4-ethynyl-phenylcarbamoyl)-2-phenyl-propyl]-carbamic acid tert-butyl ester (300 mg, 0.79 mmol) in formic acid (5 mL) was heated to 50° C. for 1 hour. The reaction was concentrated in vacuo, basified with saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate (2×20 mL). The combined organic extracts were washed with water, brine, dried over sodium sulfate, filtered and concentrated in vacuo to give (2S,3S)-2-amino-N-(4-ethynyl-phenyl)-3-phenyl-butyramide as a foam (214 mg, 92%).

reactant | [(1S,2S)-1-(4-ethynyl-phenylcarbamoyl)-2-phenyl-propyl]-carbamic acid tert-butyl ester | 0.79 mmol, 300 mg | C(C)(C)(C)OC(N[C@@H]([C@@H](C)C1=CC=CC=C1)C(NC1=CC=C(C=C1)C#C)=O)=O | C23H26N2O3
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | (2S,3S)-2-amino-N-(4-ethynyl-phenyl)-3-phenyl-butyramide | 214 mg, 92% | N[C@H](C(=O)NC1=CC=C(C=C1)C#C)[C@@H](C)C1=CC=CC=C1 | C18H18N2O
